US09216993B2
8.4 g of 2-amino-5-(2,2,2-trifluoroethyl)thiophene-3-carboxamide was refluxed in a mixture of 28 mL of triethylorthoformate and 20 mL of acetic acid for 4 hs. Solvents were removed under reduced pressure and the residue was triturated hexane-ethyl acetate mixture (1:1). The solid was filtered off to afford 5.7 g of 6-(2,2,2-trifluoroethyl)thieno[2,3-d]pyrimidin-4(3H)-one. 1H NMR MeOH-d4 (300 MHz): 12.6 (br, 1H), 8.14 (s, 1H), 7.42 (s, 1H), 4.07 (q, 2H, J 11.0 Hz). 13C NMR MeOH-d4 (75 MHz): 164.5, 157.01, 146.1, 128.4, 124.6, 123.5, 33.6 (q, J31.5 Hz).

reactant | 2-amino-5-(2,2,2-trifluoroethyl)thiophene-3-carboxamide | 8.4 g | NC=1SC(=CC1C(=O)N)CC(F)(F)F | C7H7F3N2OS
reactant | triethylorthoformate | 28 mL | C(C)OC(OCC)OCC | C7H16O3
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
product | 6-(2,2,2-trifluoroethyl)thieno[2,3-d]pyrimidin-4(3H)-one | 5.7 g | FC(CC1=CC2=C(N=CNC2=O)S1)(F)F | C8H5F3N2OS
